US05830869
Preparation of methyl (2S,3S)-2-allyl-3-benzyloxycarbonylamino-3-isobutyl-butanoate
500 mg (1.71 mmol) of methyl(S)-3-benzyloxycarbonylamino-3-isobutyl-butanoate, prepared according to the procedure described in Liebigs Ann., pp 1217-1228 (1995), is dissolved in 10 mL of dry THF and cooled under Argon to -80° C. 1.881 mL (3.762 mmol) of 2M LDA is added, and the mixture is stirred at -40° C. for 20 minutes. The reaction is cooled to -78° C., and 828 mg (6.84 mmol) of allyl bromide are added. The mixture is stirred at -78° C. for 5 hours and at room temperature overnight. The reaction is quenched with 20 mL of 1M pH 7 phosphate buffer. The pH is lowered to 2 with 1N HCl. The water layer is extracted with EtOAc. The combined organic layers are dried over MgSO4, and concentrated to provide the crude product, which is purified by chromatography using 70% hexanes/30% EtOAc as eluant to give the title compound.

reactant | methyl(S)-3-benzyloxycarbonylamino-3-isobutyl-butanoate | 1.71 mmol, 500 mg | C(C1=CC=CC=C1)OC(=O)N[C@@](CC(=O)OC)(C)CC(C)C | C17H25NO4
reactant | LDA | 3.762 mmol, 2M, 1.881 mL | [Li+].CC(C)[N-]C(C)C
reactant | allyl bromide | 6.84 mmol, 828 mg | C(C=C)Br | C3H5Br
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl (2S,3S)-2-allyl-3-benzyloxycarbonylamino-3-isobutyl-butanoate | C(C=C)[C@H](C(=O)OC)[C@](C)(CC(C)C)NC(=O)OCC1=CC=CC=C1 | C20H29NO4
